US06660753B2
In a similar fashion, 5-cyano-2-fluorobenzoyl chloride was prepared from 5-cyano-2-fluorobenzoic acid (185 mg, 1.12 mmol). Treatment of the acid chloride with pyrid-2-ylamidoxime (1.153 g, 1.12 mmol) and triethylamine (340 mg, 3.36 mmol) in dichloromethane (3 mL), followed by heating in dimethylformamide (2 mL) at 120° C. for 16 hours, afforded 17 mg (6%) of 3-(2-pyridyl)-5-(5-cyano-2-fluorophenyl)-1,2,4-oxadiazole.

reactant | 5-cyano-2-fluorobenzoyl chloride | C(#N)C=1C=CC(=C(C(=O)Cl)C1)F | C8H3ClFNO
reactant | 5-cyano-2-fluorobenzoic acid | 1.12 mmol, 185 mg | C(#N)C=1C=CC(=C(C(=O)O)C1)F | C8H4FNO2
reactant | triethylamine | 3.36 mmol, 340 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-5-(5-cyano-2-fluorophenyl)-1,2,4-oxadiazole | 17 mg, 6% | N1=C(C=CC=C1)C1=NOC(=N1)C1=C(C=CC(=C1)C#N)F | C14H7FN4O
